US08034812B2
Production of 6-chloro-N-[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]nicotinamide
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (150 mg, 0.362 mmol), triethylamine (76 μL, 0.544 mmol), 6-chloronicotinoyl chloride (76 mg, 0.435 mmol) and tetrahydrofuran (5 mL) as starting materials and in the same manner as in Example 388, the title compound (155 mg, 77%) was obtained as a pale-yellow powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.362 mmol, 150 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | triethylamine | 0.544 mmol, 76 μL | C(C)N(CC)CC | C6H15N
reactant | 6-chloronicotinoyl chloride | 0.435 mmol, 76 mg | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 6-chloro-N-[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]nicotinamide | 155 mg, 77% | ClC1=NC=C(C(=O)NC=2N=C3N(N=C(C=C3)OC3=CC(=CC=C3)NC(C3=CC(=CC=C3)C(F)(F)F)=O)C2)C=C1 | C26H16ClF3N6O3
